US06624159B2
Ethyl 2,2-Dimethyl-6-oxo-1,2-dihydro-6H-pyrrolo[3,2,1-ij]quinoline-5-carboxylate [C.3]
Diethyl 2-((2,2-dimethyl-2,3-dihydro-1H-indol-1-yl)methylene)malonate (Preparation 11, 3.14 g) is dissolved in Eaton's Reagent (3.5 mL) and slowly heated to 100° C. The reaction is cooled and poured into EtOAc (350 mL). The separated organic layer is washed with water (2×200 mL). The aqueous extracts are extracted further with CH2Cl2 (2×100 mL). The organic extracts are washed with brine and dried over MgSO4, filtered and concentrated to a brown oil which is purified by chromatography over silica gel, eluting with 5% methanol in CH2Cl2 to give 2.3 g (85%) of the title compound as a pale yellow oil that slowly crystallizes. Physical characteristics: M.p. 117-119° C.; 1H NMR (DMSO-d6) δ8.73, 7.83, 7.61, 7.41, 4.22, 3.41, 1.63, 1.29; IR (diffuse reflectance) 1933, 1677, 1640, 1624, 1601, 1544, 1459, 1367, 1310, 1213, 1176, 1144, 1032, 773, 757 cm−1; MS (EI) m/z 271 (M+). Anal. Found: C, 70.48; H, 6.36; N, 5.12.

reactant | Diethyl 2-((2,2-dimethyl-2,3-dihydro-1H-indol-1-yl)methylene)malonate | 3.14 g | CC1(N(C2=CC=CC=C2C1)C=C(C(=O)OCC)C(=O)OCC)C | C18H23NO4
reactant | EtOAc | 350 mL | CCOC(=O)C | C4H8O2
solvent | Eaton's Reagent | 3.5 mL | CS(=O)(=O)O.O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3
product | Ethyl 2,2-Dimethyl-6-oxo-1,2-dihydro-6H-pyrrolo[3,2,1-ij]quinoline-5-carboxylate | 2.3 g, 85% | CC1(CC=2C=CC=C3C(C(=CN1C23)C(=O)OCC)=O)C | C16H17NO3
